US05496928
(1) Preparation of PhOCO-Leu-DTrp(COOMe)-DNle-OtBu
To a solution of H-Leu-DTrp(COOMe)-DNle-OtBu (320 mg, prepared in Example 21-(2)) in pyridine (2.3 ml) was added phenyl chloroformate at 0°-5° C. under argon atmosphere. The mixture was stirred at the same temperature for 1.5 h and concentrated in vacuo. The residue was dissolved in ethyl acetate and the solution was washed with 10% aq. citric acid, sat. aq. NaHCO3 and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was purified by silica gel flash chromatography (Merck, Kieselgel 60) with ethyl acetate/hexane=2/1 for elution to give the product (337 mg).

reactant | H-Leu-DTrp(COOMe)-DNle-OtBu | 320 mg | N[C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)N[C@H](CCCC)C(=O)OC(C)(C)C | C29H44N4O6
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
product | PhOCO-Leu-DTrp(COOMe)-DNle-OtBu | 337 mg | C1(=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)N[C@H](CCCC)C(=O)OC(C)(C)C | C36H48N4O8
